US08076329B2
A mixture of 2-chloro-4-(4-methoxyphenyl)pyridine (4.6 g) and 48% aqueous hydrobromic acid solution is heated under reflux for 3.5 hours and allowed to cool back to room temperature. The precipitate that appears is separated by filtration, washed with water and dried under reduced pressure to give 4.9 g of 2-chloro-4-(4-hydroxyphenyl)pyridine hydrobromide as a yellow solid used without further purification.

reactant | 2-chloro-4-(4-methoxyphenyl)pyridine | 4.6 g | ClC1=NC=CC(=C1)C1=CC=C(C=C1)OC | C12H10ClNO
reactant | hydrobromic acid | Br | BrH
product | 2-chloro-4-(4-hydroxyphenyl)pyridine hydrobromide | 4.9 g | Br.ClC1=NC=CC(=C1)C1=CC=C(C=C1)O | InChI=1S/C11H8ClNO.BrH/c12-11-7-9(5-6-13-11)8-1-3-10(14)4-2-8;/h1-7,14H;1H
